US07868018B2
Step C: Preparation of N—(4-chloro-11-oxa-7,10-diaza-benzo[b]fluoren-1-yl)-3-trifluoromethyl-benzamide
To a solution of 4-chloro-11-oxa-7,10-diaza-benzo[b]fluoren-1-ylamine (35 mg, 0.13 mmol) in the dichloromethane (2.0 mL) is added 3-(trifluoromethyl)benzoyl chloride (54.2 mg, 0.26 mmol). After the mixture is stirred for 24 hours at room temperature, it is diluted with EtOAc and washed with saturated K2CO3, brine and water. The organic layer is dried, filtered and concentrated to give crude product, which is purified by flash silica gel column eluting with CH2Cl2 (100%) gradient to CH2Cl2/MeOH (98/2) to give the product as a solid: 1H NMR 400 MHz (DMSO) δ 10.85 (s, 1H), 9.53 (s, 1H), 9.37 (s, 1H), 8.63 (d, 1H), 8.24 (s, 1H), 8.19 (d, 1H), 7.87 (d, 1H), 7.77 (d, 1H), 7.72 (d, 1H), 7.67 (t, 1H), 7.48 (d, 1H); MS m/z 442.85 (M+1).

reactant | 4-chloro-11-oxa-7,10-diaza-benzo[b]fluoren-1-ylamine | 0.13 mmol, 35 mg | ClC=1C=2C=3C=C4C(=NC3OC2C(=CC1)N)C=CN=C4 | C14H8ClN3O
reactant | 3-(trifluoromethyl)benzoyl chloride | 0.26 mmol, 54.2 mg | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N—(4-chloro-11-oxa-7,10-diaza-benzo[b]fluoren-1-yl)-3-trifluoromethyl-benzamide | ClC=1C=2C=3C=C4C(=NC3OC2C(=CC1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)C=CN=C4 | C22H11ClF3N3O2
